US08580780B2
3-tert-Butoxycarbonyl-7-cyano-6-dimethylcarbamoylsulfanyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add potassium carbonate (4.13 g, 30 mmol) to a stirred solution of 7-cyano-6-dimethylcarbamoylsulfanyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (740 mg, 2.0 mmol) in methanol (40 mL)/water (15 mL) and stir for 1.5 h. Add DCM (10 mL), di-text-butyl dicarbonate (480 mg, 2.2 mmol) and stir at ambient temperature for 3 days. Concentrate in vacuo and dilute with DCM, wash with water and extract with DCM. Combine the organic layers, wash with brine, dry over MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc:heptane (0:1 to 1:1) to give the title compound as a colourless foam (370 mg, 50%). 1H NMR (300 MHz, CDCl3) δ 7.52 (d, J=8 Hz, 1H), 7.29 (d, J=8 Hz, 1H), 3.69-3.48 (m, 4H), 3.26-3.02 (m, 10H), 1.45 (s, 9H).

reactant | potassium carbonate | 30 mmol, 4.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-cyano-6-dimethylcarbamoylsulfanyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.0 mmol, 740 mg | C(#N)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)SC(N(C)C)=O | C16H16F3N3O2S
reactant | water | 15 mL | O | H2O
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 40 mL | CO | CH4O
product | 3-tert-Butoxycarbonyl-7-cyano-6-dimethylcarbamoylsulfanyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 370 mg, 50% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)C#N)SC(N(C)C)=O | C19H25N3O3S
